US08217064B2
To a solution of [4-iodo-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester (0.8 g, 1.65 mmol) in DME (anhydrous, 15 mL) under argon atmosphere were added 4-trifluoromethylphenylboronic acid (0.4 g, 2.10 mmol), CsF (0.6 g, 3.95 mmol), and Pd(PPh3)4 (0.3 g, 0.26 mmol). The reaction mixture was refluxed for 18 h (oil bath, 100° C.). A mixture of water and EtOAc (15 mL/15 mL) was added and the layers were separated. The organic phase was dried over MgSO4 and evaporated to give a crude yellow oil, which was purified by silica gel gradient column chromatography by use of Heptane-EtOAc (20:1-9:1) to give [2,6-bis-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-4-yl]-acetic acid ethyl ester (0.54 g, 70%) as a yellowish oil. 1H NMR (300 MHz, CDCl3/TMS): δ 7.64 (d, J=8.2 Hz, 2H), 7.46 (d, J=8.0 Hz, 2H), 6.68 (s, 2H), 4.28-4.16 (6H), 3.63 (s, 2H), 1.29 (t, J=7.2 Hz, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ 170.6, 155.3, 136.1, 135.5, 131.0, 129.4, 129.0, 124.4 (q, 3JCF=3.9 Hz), 124.2, 122.9, 119.0, 109.2 (two signals), 66.5 (q, 2JCF=35.5 Hz), 61.3, 41.5, 14.2.

reactant | [4-iodo-3,5-bis-(2,2,2-trifluoro-ethoxy)-phenyl]-acetic acid ethyl ester | 1.65 mmol, 0.8 g | C(C)OC(CC1=CC(=C(C(=C1)OCC(F)(F)F)I)OCC(F)(F)F)=O | C14H13F6IO4
reactant | 4-trifluoromethylphenylboronic acid | 2.10 mmol, 0.4 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | CsF | 3.95 mmol, 0.6 g | [F-].[Cs+]
reactant | water | O | H2O
solvent | DME | 15 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.26 mmol, 0.3 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | [2,6-bis-(2,2,2-trifluoro-ethoxy)-4′-trifluoromethyl-biphenyl-4-yl]-acetic acid ethyl ester | 0.54 g, 70% | C(C)OC(CC1=CC(=C(C(=C1)OCC(F)(F)F)C1=CC=C(C=C1)C(F)(F)F)OCC(F)(F)F)=O | C21H17F9O4
